US04112095
Preparation of 3-methyl-6-[4-nitro-3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 4.0 g. of 3-chloro-6-[4-nitro-3-(trifluoromethyl)phenyl]pyridazine and 1.95 g. of acetylhydrazine in 40 ml. of n-butanol is refluxed for 18 hours to give the product as crystals m.p. 293°-295° C.

reactant | 3-chloro-6-[4-nitro-3-(trifluoromethyl)phenyl]pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C11H5ClF3N3O2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-[4-nitro-3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=CC(=C(C=C2)[N+](=O)[O-])C(F)(F)F | C13H8F3N5O2
